US04264498
To a solution of N-tert-butoxycarbonyl-2-(4-phenacyloxyphenyl)glycin phenacyl ester (1.0 g.) in ethyl acetate (10 ml.) was added a mixture of hydrobromic acid and acetic acid (2 ml., 4:1 v/v), and then the mixture was stirred for half an hour at ambient temperature. The precipitates were collected by filtration and washed with ethyl acetate to give 2-(4-phenacyloxyphenyl)glycine phenacyl ester hydrobromide (830 mg.), which was recrystallized from a mixture of ethanol, methanol and diethyl ether to give the pure crystals (550 mg.), mp 176° to 177° C.

reactant | N-tert-butoxycarbonyl-2-(4-phenacyloxyphenyl)glycin phenacyl ester | 1.0 g | C(C(=O)C1=CC=CC=C1)OC(C(NC(=O)OC(C)(C)C)C1=CC=C(C=C1)OCC(=O)C1=CC=CC=C1)=O | C29H29NO7
reactant | hydrobromic acid | Br | BrH
reactant | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
product | 2-(4-phenacyloxyphenyl)glycine phenacyl ester hydrobromide | 830 mg | Br.C(C(=O)C1=CC=CC=C1)OC(C(N)C1=CC=C(C=C1)OCC(=O)C1=CC=CC=C1)=O | InChI=1S/C24H21NO5.BrH/c25-23(24(28)30-16-22(27)18-9-5-2-6-10-18)19-11-13-20(14-12-19)29-15-21(26)17-7-3-1-4-8-17;/h1-14,23H,15-16,25H2;1H
